US08236835B2
Synthesis of N-benzyl-2-(3-(hydroxy(phenyl)methyl)-2-oxopiperidin-1-yl)-4-methylthiazole-5-carboxamide
To a solution of N-benzyl-4-methyl-2-(2-oxopiperidin-1-yl)thiazole-5-carboxamide (0.25 g, 0.76 mmol) in anhydrous tetrahydrofuran (10 mL) at −78° C. was added lithium bis(trimethylsilyl)amide in tetrahydrofuran (0.83 mL, 0.83 mmol) dropwise. The reaction mixture was stirred at −78° C. for 5 minutes, followed by the dropwise addition of benzaldehyde (0.077 mL, 0.76 mmol). The resulting mixture was slowly warmed to −30° C. over 30 minutes, followed by the addition of water (5 mL) and extraction with dichloromethane (3×10 mL). The combined organic solution was dried over anhydrous sodium sulfate and filtered. The filtrate was concentrated in vacuo and the residue was purified by column chromatography (ethyl acetate/hexanes (1/1)) to afford the title compound as a white solid (0.010 g, 3%): mp 74-75° C. (hexanes/ethyl acetate); 1H NMR (300 MHz, CDCl3) δ 7.42-7.22 (m, 10H), 6.01 (t, J=5.5 Hz, 1H), 5.63 (d, J=2.5 Hz, 1H), 4.57 (d, J=5.5 Hz, 2H), 4.38-4.30 (m, 1H), 3.91-3.81 (m, 1H), 2.88-2.82 (m, 1H), 2.63 (s, 3H), 2.09-1.51 (m, 4H); 13C NMR (75 MHz, CDCl3) δ 171.7, 162.6, 152.0, 141.4, 137.9, 128.8, 128.6, 128.4, 127.9, 127.7, 127.5, 125.8, 119.7, 72.7, 49.8, 48.0, 44.1, 21.6, 19.4, 17.3; MS (ES+) m/z 436.2 (M+1).

reactant | N-benzyl-4-methyl-2-(2-oxopiperidin-1-yl)thiazole-5-carboxamide | 0.76 mmol, 0.25 g | C(C1=CC=CC=C1)NC(=O)C1=C(N=C(S1)N1C(CCCC1)=O)C | C17H19N3O2S
reactant | lithium bis(trimethylsilyl)amide | C[Si](C)(C)[N-][Si](C)(C)C.[Li+]
reactant | benzaldehyde | 0.76 mmol, 0.077 mL | C(C1=CC=CC=C1)=O | C7H6O
reactant | water | 5 mL | O | H2O
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 0.83 mmol, 0.83 mL | O1CCCC1 | C4H8O
solvent | dichloromethane | 10 mL | ClCCl | CH2Cl2
product | N-benzyl-2-(3-(hydroxy(phenyl)methyl)-2-oxopiperidin-1-yl)-4-methylthiazole-5-carboxamide | 0.010 g, 3% | C(C1=CC=CC=C1)NC(=O)C1=C(N=C(S1)N1C(C(CCC1)C(C1=CC=CC=C1)O)=O)C | C24H25N3O3S
